US07420055B2
Synthesis of N-[4, 5-Difluoro-2-(pyridine-3-carbonyl)-phenyl]-4-morpholin-4-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of heterocyclyl and heteroaryl substituted phenylsulfonyl derivatives previously described, using 4-Bromo-N-[4,5-difluoro-2-(pyridine-3 -carbonyl)-phenyl]-benzenesulfonamide 0.2 g (0.44 mmol), potassium phosphate tribasic monohydrate 0.607 g (2.64 mmol), rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl 0.082 g (0.06 mmol), morpholine 0.30 g (2.2 mmol) and Pd (dba)3 0.06 g (0.06 mmol) in 2 ml DMF. HPLC purification gave yellow title compound.

reactant | 4-Bromo-N-[4,5-difluoro-2-(pyridine-3 -carbonyl)-phenyl]-benzenesulfonamide | 0.44 mmol, 0.2 g | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)F)C(=O)C=1C=NC=CC1 | C18H11BrF2N2O3S
reactant | potassium phosphate tribasic monohydrate | 2.64 mmol, 0.607 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl | 0.06 mmol, 0.082 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | morpholine | 2.2 mmol, 0.30 g | N1CCOCC1 | C4H9NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Pd | 0.06 mmol, 0.06 g | [Pd] | Pd
product | N-[4, 5-Difluoro-2-(pyridine-3-carbonyl)-phenyl]-4-morpholin-4-yl-benzenesulfonamide | FC1=CC(=C(C=C1F)NS(=O)(=O)C1=CC=C(C=C1)N1CCOCC1)C(=O)C=1C=NC=CC1 | C22H19F2N3O4S
